US09315724B2
2-Chloro-3-amino-5-(trifluoromethyl)pyridine
Zink(II)-chloride-dihydrate (4.39 g, 19.5 mmol) is added to a solution of 2-chloro-3-nitro-5-(trifluoromethyl)pyridine (1.00 g, 4.41 mmol) in a ethyl acetate (25 ml), and the resultant suspension is stirred for 2 h at 80° C. After cooling to room temperature, the reaction mixture is slowly added dropwise into an ice cooled saturated sodium hydrogen carbonate solution (100 ml). After warming to room temperature, the resultant suspension is filtered via a celite layer, and the residue is washed four times with ethyl acetate (50 ml each). The filtrate and the washing solution are combined and subsequently washed with a saturated sodium hydrogen carbonate solution, water and a saturated aqueous sodium chloride solution. The organic phase is dried over magnesium sulfate, filtered and concentrated to dryness. Yield: 0.78 g (90%).

reactant | 2-chloro-3-nitro-5-(trifluoromethyl)pyridine | 4.41 mmol, 1.00 g | ClC1=NC=C(C=C1[N+](=O)[O-])C(F)(F)F | C6H2ClF3N2O2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-3-amino-5-(trifluoromethyl)pyridine | ClC1=NC=C(C=C1N)C(F)(F)F | C6H4ClF3N2
